US06677368B2
To a solution of 4-(4-bromo-phenyl)-1,3-dihydro-indol-2-one (72 mg, 0.25 mmol) and 3,5-dimethyl-1H-pyrrole-2-carbaldehyde (32 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 3-(3,5-Dimethyl-1H-pyrrol-2-ylmethylene)-4-(4-bromo-phenyl)-1,3-dihydro-indol-2-one as a yellow solid (50 mg, 51%).

reactant | 4-(4-bromo-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 72 mg | BrC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C14H10BrNO
reactant | 3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 32 mg | CC1=C(NC(=C1)C)C=O | C7H9NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-(3,5-Dimethyl-1H-pyrrol-2-ylmethylene)-4-(4-bromo-phenyl)-1,3-dihydro-indol-2-one | 50 mg, 51% | CC1=C(NC(=C1)C)C=C1C(NC2=CC=CC(=C12)C1=CC=C(C=C1)Br)=O | C21H17BrN2O
